US06660744B1
The representative procedure for amide formation was used in the reaction of methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate (0.035 g, 0.067 mmol) with N,N-dimethylethylenediamine (1 mL). Purification by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 6.85-7.45 min) afforded N1-[2-(dimethylamino)ethyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide as an off-white solid (0.008 g, 0.014 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 10.20 (br, 1H), 8.22 (m, 2H), 7.96 (d, 1H), 7.80 (d, 1H), 7.45 (t, 1H), 7.31 (m, 3H), 6.90 (br, 2H), 4.96 (s, 2H), 3.40 (m, 2H), 2.75 (m, 2H), 2.07 (s, 6H); MS: (M−H)− 579.

reactant | methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | 0.067 mmol, 0.035 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OC | C20H15Cl2FN6O4S
reactant | N,N-dimethylethylenediamine | 1 mL | CN(CCN)C | C4H12N2
product | N1-[2-(dimethylamino)ethyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide | 0.014 mmol, 0.008 g | CN(CCNC(CN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)=O)C | C23H23Cl2FN8O3S
